US08258130B2
A solution of pyrrolo[2,3-b]pyridine (16.9 mmol) and potassium tert-butoxide (33.8 mmol) in DMF (76 mL) is stirred at rt under N2 for 2 h. 0.15 M NH2Cl in ether (169.2 mL) is added drop-wise at rt and the reaction mixture is stirred at rt for 2 h. The reaction mixture is quenched with 5% Na2S2O3 aqueous solution (100 mL), and extracted with ether for three times. The combined organic layer is washed with brine (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 60-80% EtOAc in heptane to afford pyrrolo[2,3-b]pyridin-1-ylamine (703 mg, 31%) as a solid. MS: 134 (M+H); 1H NMR (300 MHz, CDCl3): δ 5.04 (br, 2N—H), 6.35 (d, H), 7.09 (m, H), 7.35 (m, H), 7.91 (m, H), 8.34 (d, H).

reactant | pyrrolo[2,3-b]pyridine | 16.9 mmol | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | potassium tert-butoxide | 33.8 mmol | CC(C)([O-])C.[K+]
reactant | NH2Cl | 0.15 M | NCl | ClH2N
solvent | DMF | 76 mL | CN(C)C=O | C3H7NO
solvent | ether | 169.2 mL | CCOCC | C4H10O
product | pyrrolo[2,3-b]pyridin-1-ylamine | 703 mg, 31% | N1(C=CC=2C1=NC=CC2)N | C7H7N3
